US07786115B2
A stirred suspension of N-cyclopropyl-3-(7-methoxy-1-oxoisoquinolin-2(1H)-yl)-4-methylbenzamide (845 mg) and lithium iodide (585 mg) in 2,4,6 collidine (10 ml) was heated under microwave irradiation conditions (Personal Chemistry Emrys Optimizer with 300 W magnetron) at 200° C. for 90 minutes. The mixture was dissolved using 2N NaOH and re-acidified using 2N HCl. The aqueous phase was extracted with ethyl acetate (×4) and the combined organic layers concentrated. The residue was triturated with 2N HCl and the solid collected by filtration, washed with diethyl ether and air dried to yield N-cyclopropyl-3-(7-hydroxy-1-oxoisoquinolin-2(1H)-yl)-4-methylbenzamide as a brown solid (562 mg); NMR Spectrum: (DMSOd6) 0.55 (m, 2H), 0.69 (m, 2H), 2.10 (s, 3H), 2.85 (m, 1H), 6.66 (d, 1H), 7.11 (d, 1H), 7.24 (d, 1H), 7.49 (d, 1H), 7.60 (s, 1H), 7.61 (d, 1H), 7.73 (s, 1H), 7.88 (d, 1H), 8.43 (d, 1H), 10.00 (s, 1H); Mass Spectrum: M+Na+ 357.

reactant | N-cyclopropyl-3-(7-methoxy-1-oxoisoquinolin-2(1H)-yl)-4-methylbenzamide | 845 mg | C1(CC1)NC(C1=CC(=C(C=C1)C)N1C(C2=CC(=CC=C2C=C1)OC)=O)=O | C21H20N2O3
reactant | lithium iodide | 585 mg | [I-].[Li+]
reactant | NaOH | 2N | [OH-].[Na+]
reactant | HCl | 2N | Cl | ClH
solvent | 2,4,6 collidine | 10 ml | N1=C(C=C(C=C1C)C)C | C8H11N
product | N-cyclopropyl-3-(7-hydroxy-1-oxoisoquinolin-2(1H)-yl)-4-methylbenzamide | 562 mg | C1(CC1)NC(C1=CC(=C(C=C1)C)N1C(C2=CC(=CC=C2C=C1)O)=O)=O | C20H18N2O3
